US08980886B2
Synthesis of 4-(2-chlorophenyl)-2-[5-(trifluoromethyl)-2H-tetrazol-2-yl]methylpyrimidine-5-carboxylic acid
1.74 g (4.21 mmol) of ethyl 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidine-5-carboxylate were dissolved in 12 ml of ethanol and 45% strength aqueous sodium hydroxide solution (5.05 mmol) was added dropwise at 0° C. The reaction was stirred for a further hour and warmed to RT. The ethanol was then removed under reduced pressure, and ice-water (10 ml) was added to the residue. The aqueous phase was extracted with ethyl acetate. The organic phase was discarded. Then the aqueous phase was adjusted to a pH of 3 using hydrochloric acid, and again extracted with ethyl acetate (3×20 ml). The combined organic phases were dried over sodium sulphate. (logP: 2.50; MH+: 385; 1H-NMR (400 MHz, DMSO, ppm): 6.59 (s, 2H), 7.48 (m, 4H), 9.27 (s, 1H).

reactant | ethyl 4-(2-chlorophenyl)-2-{[5-(trifluoromethyl)-2H-tetrazol-2-yl]methyl}pyrimidine-5-carboxylate | 4.21 mmol, 1.74 g | ClC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)OCC)CN1N=C(N=N1)C(F)(F)F | C16H12ClF3N6O2
reactant | sodium hydroxide | 5.05 mmol | [OH-].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | 4-(2-chlorophenyl)-2-[5-(trifluoromethyl)-2H-tetrazol-2-yl]methylpyrimidine-5-carboxylic acid | ClC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)O)CN1N=C(N=N1)C(F)(F)F | C14H8ClF3N6O2
